US07259183B2
Preparation of (4-tert-butyl-benzyl)-(4,4,4-trifluoro-butyl)-amine
0.097 ml of 4-tert-butylbenzylamine (0.55 mmol) and 110 mg 4,4,4-trifluoro-butyraldehyde (0.83 mmol) were dissolved in 2 ml methanol and stirred 30 min at rt and then refluxed for 2.5 h. After cooling down to rt, 25 mg (0.66 mmol) of sodium borohydride were added and after stirring for 5 min at rt, the reaction mixture was refluxed for 2¾ h. After cooling down to rt, the reaction mixture was treated with 1 drop 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; EtOAc/heptane 1:2) to give 110 mg colorless viscous oil (73%). MS (ISP) 274.2 (M+H)+.

reactant | 4-tert-butylbenzylamine | 0.55 mmol, 0.097 ml | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | 4,4,4-trifluoro-butyraldehyde | 0.83 mmol, 110 mg | FC(CCC=O)(F)F | C4H5F3O
reactant | sodium borohydride | 0.66 mmol, 25 mg | [BH4-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
catalyst | HCl | 1 N, 1 drop | Cl | ClH
product | (4-tert-butyl-benzyl)-(4,4,4-trifluoro-butyl)-amine | 110 mg, 73% | C(C)(C)(C)C1=CC=C(CNCCCC(F)(F)F)C=C1 | C15H22F3N
